US05663200
60d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-cyclohexyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid
A solution of 598 mg (1.175 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid in 6 ml of DMF is treated, while being stirred, with 653 mg (9.4 mmol) of imidazole and 822 mg (5.287 mmol) of t-butyldimethylchlorosilane. After it has been stirred for 17 h at RT, and under argon, the reaction solution is poured onto ice-water and the whole is extracted with ethyl acetate. The organic phase is washed with 10% citric acid solution and saline (cold). The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried with Na2SO4 and evaporated. The crude product is dried under HV for approximately 2 h and, after that, is dissolved in 15.6 ml of methanol and 5.3 ml of THF, and this solution is treated with 941 mg of potassium carbonate in 5.3 ml of water. This reaction mixture is stirred at RT for approximately 3 h, then concentrated down, at approximately 30° C., to half the volume and diluted with ethyl acetate; the organic phase is washed with 10% citric acid and saline (both being cold). The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated. The crude product is chromatographed on silica gel (hexane:ethyl acetate, 2:1), and the title compound is obtained. IR(CH2Cl2) inter alia: 3436, 1708, 1603, 1494, 1166, 1100 and 837 cm-1. FAB-MS (M+H)+ =624. HPLC tRet =23.14 min (gradient II). 1H-NMR (CD3OD) inter alia: 6.76 (d, 1H); 6.59 (d, 1H); 6.07 and 5.50 (each d, in all 1H, rotamers of NH), 3.86, 3.82 and 3.81 (each s, each 3H); 3.75-3.57 (m, 2H); 2.93-2.75 (m, 2H); 2.70 (m, 1H); 1.42 (s, 9H); 0.87 (s, 6H); 0.11 and 0.08 (each s, each 3H).

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid | 1.175 mmol, 598 mg | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)OC)OC)O)CC1CCCCC1 | C27H43NO8
reactant | imidazole | 9.4 mmol, 653 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 5.287 mmol, 822 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-cyclohexyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)OC)OC)O[Si](C)(C)C(C)(C)C)CC1CCCCC1 | C33H57NO8Si
